Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Wellbutrin SR / lisinopril / Hydrochlorothiazide / Chantix / 
duloxetine
 
Attending: ___.
 
Chief Complaint:
Cholecystitis
 
Major Surgical or Invasive Procedure:
laparoscopic cholecystectomy and release of small bowel 
adhesions to the abdominal wall

 
History of Present Illness:
The patient is a ___ year old woman who was recently admitted to 
___ ___ gastritis and admission ___ for SBO who 
now presented to clinic due to finding of adenomyomatosis on CT 
scan and possible cholecystectomy. Since her last admission, her 
pain has been getting better but her lowed abdomen feels more 
full. She admits 45 lb weight loss over the past ___ years and 
worsening fatigue over the past 6 months. She was previously 
quite active despite chronic back pain. She also admits early 
satiety. Her last colonoscopy was ___ year ago and, per patient, 
was normal. patient is being admitted for CCY on ___.
 
Past Medical History:
-HTN
-COPD (GOLD Stage II, FEV1 56%)
-Iritis (Autoimmune work-up/ evaluation for sacroillitis was
negative)
-Glaucoma
-Eustachian tube dysfunction (Multiple courses of antibiotics
for sinusitis and otitis media)
-Osteoarthritis
- Trochanteric bursitis
-Chronic Back Pain (H/o lumbar compression fractue. DEXA ___:
WNL. MRI ___: Degenerative changes, no significant instability
or acute fractures, and no evidence of
neurological compression)
-H/o Colonic polyps (Dx on ___ ___. Repeat ___ ___: WNL)
-Actinic keratoses
PSH:
Right salpingo oophorectomy for ovarian torsion, partial 
hysterectomy, tubal ligation. 

 
Social History:
___
Family History:
Mother ___ ___ INFLUENZA        
Father ___ ___ ESOPHAGEAL CANCER   
Brother Living ___ ARTHRITIS   
Brother Living ___ DEPRESSION   
Brother Living ___ HEALTHY   
Sister Living ___ ARTHRITIS, HODGKIN'S DISEASE 
 
Physical Exam:
 
 
Pertinent Results:
N/P
 
Brief Hospital Course:
The patient was admitted to the pre-op on ___ and underwent 
laparoscopic cholecystectomy, which went well without 
complication (reader referred to the Operative Note for 
details). of note some small bowel adesions to abdominal wall 
was discovered which were interfereing with the procedure and 
they were released. After a brief, uneventful stay in the PACU, 
the patient arrived on the floor tolerating clear fluids , on IV 
fluids till oral intake was adequate, and on oral pain meds for 
pain control.  The patient was hemodynamically stable.
.
Pain was well controlled. Diet was progressively advanced as 
tolerated to a regular diet with good tolerability. The patient 
voided without problem. During this hospitalization, the patient 
ambulated early and frequently, was adherent with respiratory 
toilet and incentive spirrometry, and actively participated in 
the plan of care. The patient received subcutaneous heparin and 
venodyne boots were used during this stay.
.
At the time of discharge, the patient was doing well, afebrile 
with stable vital signs. The patient was tolerating a regular 
diet, ambulating, voiding without assistance, and pain was well 
controlled.  The patient was discharged home without services. 
The patient received discharge teaching and follow-up 
instructions with understanding verbalized and agreement with 
the discharge plan.
 
Medications on Admission:
-albuterol sulfate 2.5 mg/3 mL (0.083 %) solution for 
nebulization. 1 vial inhaled every six (6) hours, 
-ALBUTEROL SULFATE [PROAIR HFA] - ProAir HFA 90 mcg/actuation 
aerosol inhaler. ___ qid prn, 
-AZELASTINE - azelastine 0.15 % (205.5 mcg) nasal spray. 2 puffs 
each nostril twice a day
-Alphagan P 0.1 % eye drops. 1 drop to each three times a day
-BRINZOLAMIDE [AZOPT] - Azopt 1 % eye drops,suspension. 1 drop 
to each eye three times a day
-BUDESONIDE-FORMOTEROL [SYMBICORT] 80 mcg-4.5 mcg/actuation HFA 
aerosol inhaler. ___ puffs(s) twice a day, rinse mouth
-cefuroxime axetil 500 mg tablet. 1 tablet(s) by mouth twice 
daily
-Restasis 0.05 % eye drops in a dropperette.  twice a day
-Flonase 50 mcg/actuation nasal spray,suspension. 2 puffs 
nostril once a day
-Xalatan 0.005 % eye drops
-Lidoderm 5 % adhesive patch. apply to the back 12 hrs on 12 hrs 
off
-losartan 25 mg tablet. tablet(s) by mouth qam
-pantoprazole 40 mg tablet,delayed release. 1 tablet(s) by mouth 
every twelve (12) hours
-prednisone 20 mg tablet. 2 tabs qd x 5 days then 1 tablet qd x 
5 days prn bronchitis symptoms
-SIMVASTATIN - simvastatin 5 mg tablet. 1 Tablet(s) by mouth at 
bedtime
TIOTROPIUM BROMIDE [SPIRIVA WITH HANDIHALER] - Spiriva with 
HandiHaler 18 mcg & inhalation capsules. 1  capsule daily once a 
day
-TRAMADOL - tramadol 50 mg tablet. 1 tablet(s) by mouth nightly
-TRAZODONE - trazodone 100 mg tablet. take 1 tablet by mouth at 
bedtime
-VALACYCLOVIR - valacyclovir 500 mg tablet. 1 tablet(s) by mouth 
qd for prophylaxis
-aspirin 81 mg tablet. 1 Tablet(s) by mouth qd with meal
-BISACODYL - bisacodyl 10 mg rectal suppository. 1 
suppository(s) rectally prn constipation
- CALCIUM CITRATE-VITAMIN D3 - calcium citrate-vitamin D3 315 
mg-200 unit tablet. 1 Tablet(s) by mouth twice a day OTC(500 
calcium)
-DOCUSATE SODIUM [COLACE] - Dosage uncertain -  (OTC; 1 bid)
-MAGNESIUM - magnesium 250 mg tablet. 1 tablet(s) by mouth twice 
a day
- POLYETHYLENE GLYCOL 3350 [MIRALAX] - Dosage uncertain -  (OTC; 
1 qd)
 
Discharge Medications:
-albuterol sulfate 2.5 mg/3 mL (0.083 %) solution for 
nebulization. 1 vial inhaled every six (6) hours, 
-ALBUTEROL SULFATE [PROAIR HFA] - ProAir HFA 90 mcg/actuation 
aerosol inhaler. ___ qid prn, 
-AZELASTINE - azelastine 0.15 % (205.5 mcg) nasal spray. 2 puffs 
each nostril twice a day
-Alphagan P 0.1 % eye drops. 1 drop to each three times a day
-BRINZOLAMIDE [AZOPT] - Azopt 1 % eye drops,suspension. 1 drop 
to each eye three times a day
-BUDESONIDE-FORMOTEROL [SYMBICORT] 80 mcg-4.5 mcg/actuation HFA 
aerosol inhaler. ___ puffs(s) twice a day, rinse mouth
-cefuroxime axetil 500 mg tablet. 1 tablet(s) by mouth twice 
daily
-Restasis 0.05 % eye drops in a dropperette.  twice a day
-Flonase 50 mcg/actuation nasal spray,suspension. 2 puffs 
nostril once a day
-Xalatan 0.005 % eye drops
-Lidoderm 5 % adhesive patch. apply to the back 12 hrs on 12 hrs 
off
-losartan 25 mg tablet. tablet(s) by mouth qam
-pantoprazole 40 mg tablet,delayed release. 1 tablet(s) by mouth 
every twelve (12) hours
-prednisone 20 mg tablet. 2 tabs qd x 5 days then 1 tablet qd x 
5 days prn bronchitis symptoms
-SIMVASTATIN - simvastatin 5 mg tablet. 1 Tablet(s) by mouth at 
bedtime
TIOTROPIUM BROMIDE [SPIRIVA WITH HANDIHALER] - Spiriva with 
HandiHaler 18 mcg & inhalation capsules. 1  capsule daily once a 
day
-TRAMADOL - tramadol 50 mg tablet. 1 tablet(s) by mouth nightly
-TRAZODONE - trazodone 100 mg tablet. take 1 tablet by mouth at 
bedtime
-VALACYCLOVIR - valacyclovir 500 mg tablet. 1 tablet(s) by mouth 
qd for prophylaxis
-aspirin 81 mg tablet. 1 Tablet(s) by mouth qd with meal
-BISACODYL - bisacodyl 10 mg rectal suppository. 1 
suppository(s) rectally prn constipation
- CALCIUM CITRATE-VITAMIN D3 - calcium citrate-vitamin D3 315 
mg-200 unit tablet. 1 Tablet(s) by mouth twice a day OTC(500 
calcium)
-DOCUSATE SODIUM [COLACE] - Dosage uncertain -  (OTC; 1 bid)
-MAGNESIUM - magnesium 250 mg tablet. 1 tablet(s) by mouth twice 
a day
- POLYETHYLENE GLYCOL 3350 [MIRALAX] - Dosage uncertain -  (OTC; 
1 qd)
- Acetaminophen 1000 mg PO Q8H 
- Docusate Sodium 100 mg PO BID 
- OxycoDONE (Immediate Release)  ___ mg PO Q3H:PRN pain 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Cholecystitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Please resume all regular home medications , unless specifically 
advised not to take a particular medication.  Also, please take 
any new medications as prescribed.
Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids.  Avoid lifting 
weights greater than ___ lbs until you follow-up with your 
surgeon, who will instruct you further regarding activity 
restrictions.
Avoid driving or operating heavy machinery while taking pain 
medications.
Please follow-up with your surgeon and Primary Care Provider 
(PCP) as advised.
Incision Care:
*Please call your doctor or nurse practitioner if you have 
increased pain, swelling, redness, or drainage from the incision 
site.
*Avoid swimming and baths until your follow-up appointment.
*You may shower, and wash surgical incisions with a mild soap 
and warm water starting tomorrow.  Gently pat the area dry.
*If you have steri-strips, they will fall off on their own.  
Please remove any remaining strips ___ days after surgery.

Please call your doctor or nurse practitioner if you experience 
the following:
*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain is not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.

 
Followup Instructions:
___